US08865894B2
Step 4.2: (3aS,7aS)-Hexahydro-benzooxazol-2-one
The (1S,2S)-2-Aminocyclohexanole (750 mg, 6.51 mmol) and the 2-Nitrophenyl chloroformate (1378 mg, 6.84 mmol) were stirred in DCE (15 mL) with DIEA (2.39 mL, 13.68 mmol) in a sealed vial at 90° C. for 1 h. The reaction mixture was given into a separating funnel with 50 mL EtOAc and 50 mL saturated NaHCO3 solution. The aqueous layer was washed with 50 mL EtOAc. The organic layers were combined and washed with 50 mL H2O, 50 mL brine, dried with Na2SO4, filtered and concentrated. The residue was purified by flash chromatography (hexane/EtOAc: 7:3→3:7) to give the title compound (770 mg, 5.13 mmol). tR: 0.69 min (LC-MS 1); 1H NMR (400 MHz, <dmso>) δ ppm 1.19-1.44 (m, 3H) 1.45-1.61 (m, 1H) 1.65 (d, J=9.77 Hz, 1H) 1.76 (d, J=11.34 Hz, 1H) 1.82-1.93 (m, 1H) 1.93-2.10 (m, 1H) 3.03-3.23 (m, 1H) 3.74 (td, J=11.34, 3.52 Hz, 1H) 7.53 (br. s., 1H)

reactant | 2-Nitrophenyl chloroformate | 6.84 mmol, 1378 mg | ClC(=O)OC1=C(C=CC=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | DIEA | 13.68 mmol, 2.39 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | DCE | 15 mL | ClCCCl | C2H4Cl2
product | (3aS,7aS)-Hexahydro-benzooxazol-2-one | 5.13 mmol, 770 mg | O1C(N[C@@H]2[C@@H]1CCCC2)=O | C7H11NO2
